US05470916
Synthesis of N-(2-hydroxyethoxy)ethyl-acrylamide.
According to the same process, N-(2-hydroxyethoxy)ethyl-methacrylamide and N,N-di(2-hydroxyethoxy)ethyl-acrylamide are obtained.

reactant | N-(2-hydroxyethoxy)ethyl-methacrylamide | OCCOCCNC(C(=C)C)=O | C8H15NO3
reactant | N,N-di(2-hydroxyethoxy)ethyl-acrylamide | OCCON(C(C(=C)CC)=O)OCCO | C9H17NO5
product | N-(2-hydroxyethoxy)ethyl-acrylamide | OCCOCCNC(C=C)=O | C7H13NO3
